US07291631B2
COMPOUND 235: N1,N1-Bis-(3-chloro-pyridin-2-ylmethyl)-butane-1,4-diamine (HBr salt)
Using General Procedure C: (3-Chloro-pyridin-2-yl)-methanol (167 mg, 1.17 mmol) (Iqbal, N. et al. J. Med. Chem. 1998, 41, 1827-1837) was dissolved in CH2Cl2 (10 mL) at 0° C. Et3N (212 μL, 1.52 mmol) was added to the colorless solution followed by subsequent addition of MsCl (90 μL, 1.17 mmol). The reaction mixture was stirred at 0° C. for one hour and then the solvent was removed under reduced pressure. The resulting crude mesylate mixture was dissolved in CH3CN (5 mL) and added to a mixture of {4-[(3-chloro-pyridin-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester (265 mg, 0.88 mmol) and Et3N (169 μL, 1.21 mmol) in CH3CN (10 mL). The reaction mixture was stirred at 50° C. for 16 hours. The solvent was removed under reduced pressure and the brown oil was purified via column chromatography on silica gel (CH2Cl2:MeOH, 95:5, v/v) to give the product as a pale yellow oil (205 mg, 52%). 1H NMR (CDCl3) δ 1.35 (m, 2H), 1.43 (s, 9H), 1.55 (m, 2H), 2.67 (t, 2H, J=7.5 Hz), 2.98 (m, 2H), 3.98 (s, 4H), 4.86 (s, 1H), 7.11 (dd, 2H, J=9.0, 6.0 Hz), 7.61 (d, 2H, J=9.0 Hz), 8.45 (m, 2H). Conversion to the HBr salt using General Procedure D gave COMPOUND 235 as a white solid. 1H NMR (D2O) δ 1.75 (m, 2H), 1.97 (m, 2H), 3.02 (t, 2H, J=7.5 Hz), 3.52 (t, 2H, J=8.1 Hz), 4.80 (s, 2H), 4.82 (s, 2H), 7.42 (dd, 2H, J=8.4, 4.8 Hz), 7.92 (d, 2H, J=8.1 Hz), 8.45 (m, 2H). 13C NMR (D2O) δ 21.51, 24.37, 39.25, 48.71, 55.98, 126.19, 131.75, 139.55, 147.09, 147.26. ES-MS m/z 339 [M+H]+. Anal. Calcd. for C16H20N4Cl2−.3.5HBr.0.8H2O: C, 30.18, H, 3.97; N, 8.80; Cl, 11.13; Br, 43.91. Found: C, 30.18; H, 4.04; N, 8.72; Cl, 10.77; Br, 44.05.

reactant | (3-Chloro-pyridin-2-yl)-methanol | 1.17 mmol, 167 mg | ClC=1C(=NC=CC1)CO | C6H6ClNO
reactant | Et3N | 1.52 mmol, 212 μL | CCN(CC)CC | C6H15N
reactant | MsCl | 1.17 mmol, 90 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | {4-[(3-chloro-pyridin-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester | 0.88 mmol, 265 mg | C(C)(C)(C)OC(NCCCCNCC1=NC=CC=C1Cl)=O | C15H24ClN3O2
reactant | Et3N | 1.21 mmol, 169 μL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | N1,N1-Bis-(3-chloro-pyridin-2-ylmethyl)-butane-1,4-diamine | 205 mg, 52% | ClC=1C(=NC=CC1)CN(CCCCN)CC1=NC=CC=C1Cl | C16H20Cl2N4
